US07071201B2
Example 26: Synthesis of 1-{1-[4-(2-hydroxyethoxy)phenethyl]piperidin-4-yl}indoline
N,N-Dimethylformamide (2.5 ml) was added to 1-[1-(4-hydroxyphenethyl)piperidin-4-yl]indoline (0.1 g), potassium carbonate (0.081 g) and 1-bromo-2-di(t-butyl)dimethylsilyloxyethane (0.20 g) and the resultant mixture was heated and stirred at 80° C. for 28 hr. After allowing to cool, it was extracted with ethyl acetate (200 ml), washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate system) to give a colorless oil. Then this product was dissolved in tetrahydrofuran (1.3 ml) anda 2.0 Msolution (0.88 ml) of tetrabutylammonium fluoride in tetrahydrofuran was added thereto followed by stirring the mixture at room temperature for 1 hr. The resultant mixture was extracted with ethyl acetate (200 ml), washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (0.124 g) as a colorless oil (yield: 69.0%).

reactant | N,N-Dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
reactant | 1-[1-(4-hydroxyphenethyl)piperidin-4-yl]indoline | 0.1 g | OC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=CC=C23)C=C1 | C21H26N2O
reactant | potassium carbonate | 0.081 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrabutylammonium fluoride | 0.88 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1.3 ml | O1CCCC1 | C4H8O
product | 1-{1-[4-(2-hydroxyethoxy)phenethyl]piperidin-4-yl}indoline | 0.124 g, yield: 69.0% | OCCOC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=CC=C23)C=C1 | C23H30N2O2
